US04336254
A mixture of 12.0 g (0.0732 m) of 2-amino-4,6-dichloropyrimidine and 55.0 g (0.931 mole) of guanidine was heated at 80° for 1.5 hours. The mixture was cooled to room temperature and diluted with water; the white crystalline precipitate was filtered, washed with water then air dried giving 7.22 g (53%) of 2-amino-6-chloro-4-guanidinopyrimidine, mp 220° (dec.).

reactant | 2-amino-4,6-dichloropyrimidine | 12.0 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | guanidine | 0.931 mole, 55.0 g | NC(=N)N | CH5N3
solvent | water | O | H2O
product | 2-amino-6-chloro-4-guanidinopyrimidine | 7.22 g, 53% | NC1=NC(=CC(=N1)NC(=N)N)Cl | C5H7ClN6
